US06177423B1
2-Benzyloxy-6-bromo-benzo[de]isoquinoline-1,3-dione
O-Benzyl hydroxylamine hydrochloride (2.0 g, 12.5 mmol) and 4-bromo-1,8-naphthalic anhydride (2.9 g, 10.5 mmol) were reacted in pyridine (50 mL) following the procedure of Example D to give 3.5 g of the title compound.

reactant | O-Benzyl hydroxylamine hydrochloride | 12.5 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)ON
reactant | 4-bromo-1,8-naphthalic anhydride | 10.5 mmol, 2.9 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-Benzyloxy-6-bromo-benzo[de]isoquinoline-1,3-dione | 3.5 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=CC3Br)=O | C19H12BrNO3
